US07683060B2
Step 3. 5-[1-(4-Methoxyphenyl)cyclopropyl]-1,3,4-oxadiazol-2-amine
Cyanogen bromide (0.424 g, 4.0 mmol) was added to an ice-cooled slurry of 1-(4-methoxyphenyl)cyclopropanecarbohydrazide (0.750 g, 3.64 mmol) and potassium bicarbonate (0.50 g, 5.0 mmol) in methanol (8 mL). The mixture was stirred at 0° C. for 1 h. the ice bath was allowed to warm slowly and stirred at RT for overnight. The reaction mixture was diluted with water (10 mL), stirred for 1 h. The precipitate was collected by filtration and washed with water, and dried on high vacuum to afford the desired product (600 mg, 71.3%). Analytical LCMS: (M+H)+=232.1.

reactant | Cyanogen bromide | 4.0 mmol, 0.424 g | N#CBr | CBrN
reactant | 1-(4-methoxyphenyl)cyclopropanecarbohydrazide | 3.64 mmol, 0.750 g | COC1=CC=C(C=C1)C1(CC1)C(=O)NN | C11H14N2O2
reactant | potassium bicarbonate | 5.0 mmol, 0.50 g | C([O-])(O)=O.[K+]
solvent | methanol | 8 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 5-[1-(4-Methoxyphenyl)cyclopropyl]-1,3,4-oxadiazol-2-amine | 600 mg, 71.3% | COC1=CC=C(C=C1)C1(CC1)C1=NN=C(O1)N | C12H13N3O2
